US07279473B2
N-Cyclopropyl-4-(2-ethylpyrazolo[1,5-b]pyridazin-3-yl)-2-pyrimidinamine
To a solution (2E)-3-(dimethylamino)-1-(2-ethylpyrazolo[1,5-b]pyridazin-3-yl)-2-propen-1-one (75 mg, 0.31 mmol) in DMF (2.0 mL) was added N-cyclopropylguanidine.0.5H2SO4 (181 mg, 0.92 mmol) and potassium carbonate (212 mg, 1.54 mmol). The reaction was heated at an oil bath temperature of 135° C. for about 18 hours. The mixture was cooled to RT and the solvent was removed in vacuo. The residue was dissolved in chloroform and filtered. The filtrate was concentrated in vacuo then disolved in CH2Cl2 and triturated with diethylether and hexanes to give the title compound as an orange solid (32 mg, 360% o). 1H-NMR (300 MHz, CDCl3) δ 8.96 (d, 1H, J=8.7 Hz), 8.38 (d, 1H, J=5.4 Hz), 8.34 (dd, 1H, J=4.4, 1.9 Hz), 7.14 (dd, 1H, J=9.0, 4.5 Hz), 6.92 (d, 1H, J=5.4 Hz), 5.47 (s, 1H), 3.23 (q, 2H, J=7.5 Hz), 2.88 (m, 1H), 1.50 (t, 3H, J=7.5 Hz), 0.91 (m, 2H), 0.67 (m, 2H); MS (ESI) (M+H)+ 281.

reactant | (2E)-3-(dimethylamino)-1-(2-ethylpyrazolo[1,5-b]pyridazin-3-yl)-2-propen-1-one | 0.31 mmol, 75 mg | CN(/C=C/C(=O)C=1C(=NN2N=CC=CC21)CC)C | C13H16N4O
reactant | N-cyclopropylguanidine | C1(CC1)NC(=N)N | C4H9N3
reactant | potassium carbonate | 1.54 mmol, 212 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | N-Cyclopropyl-4-(2-ethylpyrazolo[1,5-b]pyridazin-3-yl)-2-pyrimidinamine | 32 mg, 360% | C1(CC1)NC1=NC=CC(=N1)C=1C(=NN2N=CC=CC21)CC | C15H16N6
